US07087601B2
2-(3-Chloro-4-pyridin-3-ylphenyl)-1,3-benzoxazole
A suspension of 3-chloro-4-hydroxybenzoic acid (20.0 g, 11.6 mmol) in anhydrous dichloromethane (100 mL) was treated with oxalyl chloride (20 mL, 23.2 mmol) followed by few drops of DMF at 22° C. under argon. After 2 h stirring, the solution became clear, concentrated to dryness, dissolved in dichloromethane (50 mL) and added slowly to a solution of 2-aminophenol (12.6 g, 11.6 mmol) and TEA (9 mL, 11.6 mmol) in anhydrous DMC (50 mL). After 20 min stirring, filtered off salt, concentrated the mixture to afford 4-chloro-3-hydroxy-N-phenylbenzamide as a brown solid. MS (ESI) 264(M+H)+. 4-Chloro-3-hydroxy-N-phenylbenzamide (4 g, 15.2 mmol) was treated with POCl3 (5 mL) at reflux for 1 h. Concentrated and dissolved in dichloromethane (50 mL), washed with sat. NaHCO3 (3×25 mL) and sat. brine (3×25 mL), dried (MgSO4), concentrated in vacuo. The crude residue was chromatographed on silica gel, eluting with 2:1 hexanes:EtOAc to afford 4-(1,3-benzoxazol-2-yl)-2-chlorophenol as a colorless solid. MS (ESI) 246(M+H)+. The solution of 4-(1,3-benzoxazol-2-yl)-2-methoxyphenol (800 mg, 3.3 mmol) in anhydrous DMF (10 mL) was treated with Cs2CO3 (1.1 g, 3.2 mmol) and N-phenyl trifluoromethanesulfonimide (1.2 g, 3.2 mmol) at 22° C. for 30 min. After which time it was quenched with sat. NaHCO3 (20 mL) and diluted with EtOAc (50 mL). The EtOAc solution was washed with sat. brine (3×10 ml), dried (MgSO4), filtered and concentrated in vacuo. The residue was chromatographed on silica gel, eluting with 6:1 hexanes:EtOAc to afford 4-(1,3-benzoxazol-2-yl)-2-chlorophenyl trifluoromethanesulfonate a colorless oil. MS (ESI) 378 (M+H)+. The solution of 4-(1,3-benzoxazol-2-yl)-2-chlorophenyl trifluoromethanesulfonate (150 mg, 0.4 mmol) in 6 mL of 2:1 DMF:H2O was degassed via Argon for 10 min. Then K2CO3 (137 mg, 0.99 mmol), Pd(Ph3P)4 (23 mg, 0.02 mmol), n-Bu4NBr (128 mg, 0.40 mmol) and 3-Pyridylboronic acid (73 mg, 0.60 mmol) were added at 22° C. The resulting mixture was then heated at 75° C. for 1 h under Argon. Cooled the reaction mixture to 22° C., then filtered through a pad of Celite. The filtrate was concentrated under reduced pressure to give after purification by flash chromatography (silica gel, 3:1; hexanes:EtOAc) the desired compound, as a yellow solid. 1H NMR (CDCl3, 300 MHz) δ 8.75 (d, 1H), 6.68 (dd, 1H), 8.42 (d, 1H), 8.24 (dd, 1H), 7.89 (dt, 1H), 7.81 (m, 1H), 7.63 (m, 1H), 7.52 (d, 1H), 7.42 (m, 3H). MS (ESI) 307 (M+H)+.

reactant | 4-(1,3-benzoxazol-2-yl)-2-chlorophenyl trifluoromethanesulfonate | 0.4 mmol, 150 mg | FC(S(=O)(=O)OC1=C(C=C(C=C1)C=1OC2=C(N1)C=CC=C2)Cl)(F)F | C14H7ClF3NO4S
reactant | H2O | O | H2O
reactant | K2CO3 | 0.99 mmol, 137 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 3-Pyridylboronic acid | 0.60 mmol, 73 mg | N1=CC(=CC=C1)B(O)O | C5H6BNO2
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
catalyst | n-Bu4NBr | 0.40 mmol, 128 mg | [N+](CCCC)(CCCC)(CCCC)CCCC.[Br-]
catalyst | Pd(Ph3P)4 | 0.02 mmol, 23 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(3-Chloro-4-pyridin-3-ylphenyl)-1,3-benzoxazole | ClC=1C=C(C=CC1C=1C=NC=CC1)C=1OC2=C(N1)C=CC=C2 | C18H11ClN2O
